US06713479B2
Synthesis of 3-Hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester
A 500 mL round bottom flask was charged with potassium carbonate (17 g, 0.123 mol), piperdin-3-yl methanol (4.72 g, 0.041 mol), and a 1:1 mixture of THF/water (200 mL). Solid di tert-butyl dicarbonate (8.94 g, 0.041 mol) was added to the stirring reaction mixture. After completion of addition the reaction mixture was stirred at room temperature for 12 h. The aqueous layer was separated from the reaction mixture and extracted with ethyl acetate (3×100 mL). The combined organic layers were dried over sodium sulfate and concentrated to yield the desired product (9.41 g).

reactant | potassium carbonate | 0.123 mol, 17 g | C([O-])([O-])=O.[K+].[K+]
reactant | piperdin-3-yl methanol | 0.041 mol, 4.72 g | N1CC(CCC1)CO | C6H13NO
reactant | di tert-butyl dicarbonate | 0.041 mol, 8.94 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF water | 200 mL | C1CCOC1.O
product | 3-Hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 9.41 g | C(C)(C)(C)OC(=O)N1CC(CCC1)CO | C11H21NO3
